*****************************************************************
* NXP BSH201
*
* Polarity P-Channel
* Ratings 60V/2.10E+00OHMS/1.60E-01A
*
* Date Created Fri Jun 10 09:41:31 2005
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BSH201 DRAIN GATE SOURCE

LD DRAIN 5 7e-10
RLD2 DRAIN 5 1.7592904
RLD1 5 4 0.00035
LG GATE 1 2.8e-09
RLG GATE 1 7.0371616
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.0106176
RLS1 8 7 0.0069

RDS 7 4 960000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 1.76216629800303 TC=0.00681126351780429,1.2382975926362e-05
RBD 9 4 0.393314488544542 TC=0.00681126351780429,1.2382975926362e-05
DBD 9 7 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 7.0833e-11
RG 1 2 9.967

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    2 3 VALUE { V(13, 0)*I(V11) }
E11    12   0  2 3  1
E12    13   0  TABLE {V(12)}
+ -10	81
+ -5	81
+ -2	81
+ -1	81
+ -0.5	81
+ -0.2	81
+ -0.1	81
+ 0	81
+ 0.1	81
+ 0.2	75
+ 0.3	60
+ 0.4	50
+ 0.5	43
+ 0.6	37
+ 0.7	32
+ 0.8	29
+ 0.9	26
+ 1	24
+ 2	17
+ 5	10.5
+ 10	8
+ 30	5.5
+ 60	5



.MODEL MINT PMOS(Vto=-1.9033423414524 Kp=3.7372e-01 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=2000)

.MODEL DBD D(Bv=60.00 Ibv=1.00E-05 Rs=1E-6 Is=6.05804590111418e-15
+ N=1 M=0.57 VJ=0.5 Fc=0.5 Cjo=5.929e-11 Tt=3.8e-08)

.ENDS

